US07968573B2
To a mixture of 15 g of 3-chloro-2-(3-trifluoromethyl-1H-pyrazol-1-yl)pyridine and 150 ml of tetrahydrofuran was added dropwise 39 ml of a 2.0 mol/L lithium diisopropylamide solution in heptane/tetrahydrofuran/ethylbenzene at −78° C., and then stirred at −78° C. for 15 minutes. Carbon dioxide was introduced into the mixture at such a rate that the inner temperature was retained at −60° C. or lower. After the mixture turned yellow, it was further stirred at −78° C. for 10 minutes. After the temperature of the reaction mixture was allowed to rise to room temperature, 200 ml of water and 200 ml of hexane were poured. The aqueous layer was adjusted to pH 10-12 by an addition of a 2N aqueous sodium hydroxide solution and then layers were separated. The organic layer was extracted with a 0.5N aqueous sodium hydroxide solution. The aqueous layers were combined, washed with diethyl ether, adjusted to around pH 3 by an addition of 2N hydrochloric acid, and then extracted with methyl tert-butyl ether three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 16.08 g of 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carboxylic acid of the formula:

reactant | 3-chloro-2-(3-trifluoromethyl-1H-pyrazol-1-yl)pyridine | 15 g | ClC=1C(=NC=CC1)N1N=C(C=C1)C(F)(F)F | C9H5ClF3N3
reactant | lithium diisopropylamide | 2.0 mol/L | C(C)(C)[N-]C(C)C.[Li+]
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | hexane | 200 ml | CCCCCC | C6H14
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carboxylic acid | 16.08 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(F)(F)F | C10H5ClF3N3O2
